### PR TITLE
[Merged by Bors] - chore(Topology): remove unnecessary tactic invocations

### PR DESCRIPTION
**Pull request by euprunin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer merge

File: Mathlib/Topology/Order.lean [hunk 1]
```diff
@@ -788,13 +788,11 @@ theorem map_nhds_induced_of_mem {a : α} (h : range f ∈ 𝓝 (f a)) :
...
 theorem closure_induced {f : α → β} {a : α} {s : Set α} :
     a ∈ @closure α (t.induced f) s ↔ f a ∈ closure (f '' s) := by
-  letI := t.induced f
   simp only [mem_closure_iff_frequently, nhds_induced, frequently_comap, mem_image, and_comm]
 
 theorem isClosed_induced_iff' {f : α → β} {s : Set α} :
     IsClosed[t.induced f] s ↔ ∀ a, f a ∈ closure (f '' s) → a ∈ s := by
-  letI := t.induced f
-  simp only [← closure_subset_iff_isClosed, subset_def, closure_induced]
+   simp only [← closure_subset_iff_isClosed, subset_def, closure_induced]
```
Comment (sgouezel) [inline Mathlib/Topology/Order.lean]: can you fix the indentation?

**Review by sgouezel — COMMENTED** [review]
bors d+

File: Mathlib/Topology/Order.lean (hunk 1 above)
Comment (euprunin) [reply Mathlib/Topology/Order.lean]: Thanks for reviewing and catching this. Now fixed.
